US06258829B1
Methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Methanol (5.0 ml) was added to Raney nickel water suspension (0.2 ml) and stirred at room temperature for 30 minutes in an atmosphere of hydrogen. The reaction solution was mixed with methanol solution (6.0 ml) of methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide (607.9 mg, 2.29 mmol) and stirred at room temperature for 30 hours in an atmosphere of hydrogen. After removal of the catalyst by filtration, the resulting residue was washed with methanol, the solvent was evaporated under reduced pressure, and the thus obtained residue was dissolved in ethyl acetate and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by a silica gel column chromatography (ether:hexane=2:1) to obtain the title compound (567.8 mg, 99.6%) as colorless oil.

reactant | hydrogen | [H][H] | H2
reactant | methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 2.29 mmol, 607.9 mg | COC1=C2C(=[N+](C(=C1C(=O)OC)C)[O-])CCCCC2 | C14H19NO4
solvent | methanol | 6.0 ml | CO | CH4O
solvent | Methanol | 5.0 ml | CO | CH4O
product | Methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 567.8 mg, 99.6% | COC1=C2C(=NC(=C1C(=O)OC)C)CCCCC2 | C14H19NO3
